US03991066
EXAMPLE 12: 3-(1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridin-2-yl) propionic acid piperidide
1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine and acrylic acid piperidide are reacted in accordance with the process described in Example 6. Reaction period nine hours. M.P. of the hydrochloride of the title compound 219°-221° from ethanol (decomp.).

reactant | 1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridine | CC=1C2=CC=CC=C2C2CNCCC21 | C13H15N
reactant | acrylic acid piperidide | C(C=C)(=O)N1CCCCC1 | C8H13NO
reactant | hydrochloride | Cl | ClH
product | 3-(1,3,4,9b-Tetrahydro-5-methyl-2H-indeno[1,2-c]pyridin-2-yl) propionic acid piperidide | CC=1C2=CC=CC=C2C2CN(CCC21)CCC(=O)N2CCCCC2 | C21H28N2O
